US07129238B2
(RS)-Ethoxy-(2-fluoro-4-methoxy-phenyl)-acetic acid, described in example 63.1 was coupled with 4-aminomethyl-3-chlorobenzonitrile (CAS 202521-97-9) according to general procedure C to give (RS)-N-(2-chloro-4-cyano-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide. Yellow oil. MS 377.2 ([M+H]+)

reactant | (RS)-Ethoxy-(2-fluoro-4-methoxy-phenyl)-acetic acid | C(C)OC(C(=O)O)C1=C(C=C(C=C1)OC)F | C11H13FO4
reactant | 4-aminomethyl-3-chlorobenzonitrile | NCC1=C(C=C(C#N)C=C1)Cl | C8H7ClN2
product | (RS)-N-(2-chloro-4-cyano-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide | ClC1=C(CNC(C(C2=C(C=C(C=C2)OC)F)OCC)=O)C=CC(=C1)C#N | C19H18ClFN2O3
